US07129252B2
C: N-{4-[(methoxymethyl)cyclobutyl]phenyl}{2-[(4-pyridylmethyl)amino]phenyl}-carboxamide
A mixture of N-[2-(N-{4-[(methoxymethyl)-cyclopropyl]phenyl}carbamoyl)-phenyl]-N-(4-pyridylmethyl)acetamide (100 mg) and 20% HCl (5 ml) in EtOH (15 ml) was stirred at 80° C. overnight. The solution was basified with NaHCO3 and evaporated with silica gel and purified by column chromatography to give the title compound. Mass: (M+1), 402.

reactant | N-[2-(N-{4-[(methoxymethyl)-cyclopropyl]phenyl}carbamoyl)-phenyl]-N-(4-pyridylmethyl)acetamide | 100 mg | COCC1(CC1)C1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1)N(C(C)=O)CC1=CC=NC=C1 | C26H27N3O3
reactant | HCl | 5 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 15 ml | CCO | C2H6O
product | N-{4-[(methoxymethyl)cyclobutyl]phenyl}{2-[(4-pyridylmethyl)amino]phenyl}-carboxamide | COCC1(CCC1)C1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1)NCC1=CC=NC=C1 | C25H27N3O2
